US08217027B2
To a solution of ((1R,3R)-1-amino-3-(4-(3-(benzyloxy)prop-1-ynyl)phenyl)cyclopentyl)methanol (25 g, 55.9 mmol) in toluene (200 mL) was added a solution of potassium hydroxide (12.54 g, 224 mmol) in water (40 mL) followed by a solution of 20% phosgene in toluene (41.5 g, 84 mmol). After about 4 hours EtOAc was added and the organic layer was separated and concentrated in vacuo. The crude product was purified by chromatography on silica gel (EtOAc/DCM) to provide (5R,7R)-7-(4-(3-(benzyloxy)prop-1-ynyl)phenyl)-3-oxa-1-azaspiro[4.4]nonan-2-one (20 g, 44.3 mmol, 79% yield) as a brown oil.

reactant | ((1R,3R)-1-amino-3-(4-(3-(benzyloxy)prop-1-ynyl)phenyl)cyclopentyl)methanol | 55.9 mmol, 25 g | N[C@]1(C[C@@H](CC1)C1=CC=C(C=C1)C#CCOCC1=CC=CC=C1)CO | C22H25NO2
reactant | potassium hydroxide | 224 mmol, 12.54 g | [OH-].[K+]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 mL | O | H2O
solvent | toluene | 84 mmol, 41.5 g | C1(=CC=CC=C1)C | C7H8
product | (5R,7R)-7-(4-(3-(benzyloxy)prop-1-ynyl)phenyl)-3-oxa-1-azaspiro[4.4]nonan-2-one | 44.3 mmol, 20 g, 79% yield | C(C1=CC=CC=C1)OCC#CC1=CC=C(C=C1)[C@H]1C[C@@]2(COC(N2)=O)CC1 | C23H23NO3
